US05587504
Synthesis of 2-cyclopropanecarboxamido-4-methyl-3-nitropyridine
A mixture comprising 5.0 g (32.6 mmol) of 2-amino-4-methyl-3-nitropyridine and 5.2 g of pyridine was heated at 110° C. in a nitrogen atmosphere. 3.8 g (36 mmol) of cyclopropanecarbonyl chloride was dropwise added thereto, followed by further stirring at 110° C. for 5 hours. The reaction mixture was brought to room temperature, followed by the addition of chloroform (50 ml) and water (50 ml). The organic phase was separated and the aqueous phase was further extracted with chloroform (50 ml) twice. The organic phases were combined and washed with water (20 ml) and a saturated aqueous solution (20 ml) of common salt, successively. The resultant organic phase was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 5.4 g of the title compound (yield 75%).

reactant | 2-amino-4-methyl-3-nitropyridine | 32.6 mmol, 5.0 g | NC1=NC=CC(=C1[N+](=O)[O-])C | C6H7N3O2
reactant | pyridine | 5.2 g | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 36 mmol, 3.8 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 2-cyclopropanecarboxamido-4-methyl-3-nitropyridine | 5.4 g, yield 75% | C1(CC1)C(=O)NC1=NC=CC(=C1[N+](=O)[O-])C | C10H11N3O3
